US06353017B1
A solution of N-[2-[(3-(methoxycarbonyl)phenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide (0.34 g, 0.58 mmol) in pinacolone (20 mL) is degassed with bubbling nitrogen for 10 minutes. Lithium iodide (0.78 g, 5.80 mmol) is then added, and the solution is refluxed in the dark for 24 hours, after which time it is cooled to room temperature, diluted with ethyl acetate (50 mL), and washed with 5% aq. sodium thiosulfate (2×50 mL), water (1×50 mL) and brine (1×50 mL). The organic layer is then dried over MgSO4, evaporated, and the residue is chromatographed (silica, 3% MeOH/CH2Cl2/0.05% acetic acid) to yield a clear glass, which is crystallized with an EtOAc/hexane (1:50) mixture to yield N-[2-[(3-carboxyphenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(diphenyacetyl)-L-phenylalaninamide as a white solid, m.p. 160-162° C.

reactant | N-[2-[(3-(methoxycarbonyl)phenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide | 0.58 mmol, 0.34 g | COC(=O)C=1C=C(C=CC1)COC[C@H](C#N)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C36H35N3O5
reactant | Lithium iodide | 5.80 mmol, 0.78 g | [I-].[Li+]
solvent | pinacolone | 20 mL | CC(C(C)(C)C)=O | C6H12O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-[(3-carboxyphenyl)methoxy]-1(S)-cyanoethyl]-3-methyl-Nα-(diphenyacetyl)-L-phenylalaninamide | C(=O)(O)C=1C=C(C=CC1)COC[C@H](C#N)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C35H33N3O5
